US04536209
(ii) Production of N-ethyl α-(2-chloro-5-nitrophenoxy)propionamide
A mixture of 2.74 g. of ethyl α-(2-chloro-5-nitrophenoxy)propionate, 0.77 g. of 70% aqueous solution of ethylamine and 15 ml. of ethanol was kept at room temperature for one night. The precipitate was separated by a filtration and recrystallized from a mixture of benzene-cyclohexane to obtain 2.5 g. of the object compound (melting point of 148° to 149° C.).

reactant | ethyl α-(2-chloro-5-nitrophenoxy)propionate | ClC1=C(OC(C(=O)OCC)C)C=C(C=C1)[N+](=O)[O-] | C11H12ClNO5
reactant | ethylamine | C(C)N | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | N-ethyl α-(2-chloro-5-nitrophenoxy)propionamide | C(C)NC(C(C)OC1=C(C=CC(=C1)[N+](=O)[O-])Cl)=O | C11H13ClN2O4
